US05294612
Following a procedure substantially similar to that described in Example 16, part c, but substituting ethyl isonicotinate for 6-carboethoxyimidazo[1,2-a]pyridine and 1-tert-butyl-3-(4-pyridylmethyl)-5-amino-1H-pyrazole-4-carboxamide for 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide there was obtained 1-tert-butyl-3-(4-pyridylmethyl)-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one in 84% yield as a white powder, m.p. 233°-235° C.

reactant | 6-carboethoxyimidazo[1,2-a]pyridine | C(=O)(OCC)C=1C=CC=2N(C1)C=CN2 | C10H10N2O2
reactant | 1-tert-butyl-3-(4-pyridylmethyl)-5-amino-1H-pyrazole-4-carboxamide | C(C)(C)(C)N1N=C(C(=C1N)C(=O)N)CC1=CC=NC=C1 | C14H19N5O
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
product | 1-tert-butyl-3-(4-pyridylmethyl)-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 84% yield | C(C)(C)(C)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)CC2=CC=NC=C2 | C20H20N6O
